US04254024
In a fashion analogous to Step D of Example 1A, 2.15 g of Boc-Tyr-DAla-Phe-Met-OCH3 was treated with 20 ml of ethylamine in 200 ml of methanol to give 2.01 g (92%) of Boc-Tyr-DAla-Phe-Met-NHCH2CH3, m.p. 159°-161° C., [α]D25 =5.04° (c, 0.97 in methanol).

reactant | Boc-Tyr-DAla-Phe-Met-OCH3 | 2.15 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)OC)C(=O)OC(C)(C)C | C32H44N4O8S
reactant | ethylamine | 20 ml | C(C)N | C2H7N
solvent | methanol | 200 ml | CO | CH4O
product | Boc-Tyr-DAla-Phe-Met-NHCH2CH3 | 2.01 g, 92% | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)NCC)C(=O)OC(C)(C)C | C33H47N5O7S
